US07005432B2
5-(5,7-Dimethyl-3,4-dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=331.3 (M+H+), was prepared from 5,7-dimethyl-3,4-dihydro-naphthalene-2-boronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 5,7-dimethyl-3,4-dihydro-naphthalene-2-boronic acid | CC1=C2CCC(=CC2=CC(=C1)C)B(O)O | C12H15BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(5,7-Dimethyl-3,4-dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.CC1=C2CCC(=CC2=CC(=C1)C)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C21H22N4.ClH/c1-14-8-15(2)21-5-4-17(10-18(21)9-14)19-11-20(24-23-12-19)13-25-7-6-22-16(25)3;/h6-12H,4-5,13H2,1-3H3;1H
